US05034403
A mixture of 4-nitro-3-fluoropyridine N-oxide (1.2 g) and 5-amino-7-chloro-2,3-dimethylindole (1.4 g) in thoroughly degassed absolute ethanol was stirred at 50° C. for 30 minutes and thereafter cooled slowly to 0° C. The precipitate was collected and air-dried to give 2.37 g of N-(4-nitro-3-pyridinyl)-7-chloro-2,3-dimethyl-1H-indol-5-amine N5 -oxide as a powder.

reactant | 4-nitro-3-fluoropyridine N-oxide | 1.2 g | [N+](=O)([O-])C1=C(C=[N+](C=C1)[O-])F | C5H3FN2O3
reactant | 5-amino-7-chloro-2,3-dimethylindole | 1.4 g | NC=1C=C2C(=C(NC2=C(C1)Cl)C)C | C10H11ClN2
reactant | ethanol | C(C)O | C2H6O
product | N-(4-nitro-3-pyridinyl)-7-chloro-2,3-dimethyl-1H-indol-5-amine N5 -oxide | 2.37 g | [N+](=O)([O-])C1=C(C=NC=C1)[NH+](C=1C=C2C(=C(NC2=C(C1)Cl)C)C)[O-] | C15H13ClN4O3
